US09023847B2
174. 3-(7H-Pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid phenethylamide
The title compound was prepared in an analogous manner as 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid benzylamide using phenethylamine instead of benzylamine and obtained in 25% (HPLC: 90%, RT: 6.36 min). 1H NMR (DMSO-d6) 11.96 (br s, 1H), 11.38 (s, 1H), 8.47 (d, J=5.5 Hz, 1H), 8.38 (s, 1H), 8.32 (t, J=5.5 Hz, 1H), 7.75 (d, J=5.1 Hz, 1H), 7.36 (dd, J=3.7, 2.6 Hz, 1H), 7.33-7.18 (m, 5H), 6.46 (dd, J=3.7, 1.8 Hz, 1H), 3.54-3.47 (m, 2H), 2.87 (dd, J=8.1, 7.0 Hz, 2H); MS (m/z) 364 [M+H]+.

reactant | 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C=1SC=CC1NC=1C2=C(N=CN1)NC=C2 | C18H15N5OS
reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
product | 3-(7H-Pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid phenethylamide | C(CC1=CC=CC=C1)NC(=O)C=1SC=CC1NC=1C2=C(N=CN1)NC=C2 | C19H17N5OS
